US05756784
Into a four-necked flask containing ethylenediamine (3 g, 0.05 mol) and water (50 g), an aqueous sodium chloroacetate solution (11.7 g, 0.1 mol) was added dropwise over 30 minutes. The contents were mixed at 60° C. for 2 hours, and then washed with ethanol to give 8.8 g of N,N'-bis(carboxymethyl) ethylenediamine (separation yield: 88 wt %).

reactant | ethylenediamine | 0.05 mol, 3 g | C(CN)N | C2H8N2
reactant | sodium chloroacetate | 0.1 mol, 11.7 g | ClCC(=O)[O-].[Na+]
solvent | water | 50 g | O | H2O
product | N,N'-bis(carboxymethyl) ethylenediamine | 8.8 g | C(=O)(O)CNCCNCC(=O)O | C6H12N2O4
